US07968540B2
Step A. Ethyl(4-nitro-1H-indol-3 yl)(oxo)acetate
Diphosphoryl chloride (23.5 mL, 170 mmol) was added dropwise to a stirred mixture of 4-nitroindole (25.0 g, 154 mmol) and ethyl 1-piperidineglyoxylate (29.0 g, 170 mmol) at 0° C. The mixture was allowed to warm slowly to ambient temperature and stirring was continued for 18 h. The reaction mixture was cooled to 0° C. and quenched carefully by addition of EtOH (50 mL), followed by saturated aqueous NaBCO3 until no further effervescence was observed. The precipitated yellow solid was isolated by filtration, washed with H2O, and dried in vacuo to give the title compound. MS: m/z=263 (M+1).

reactant | Diphosphoryl chloride | 170 mmol, 23.5 mL | P(=O)(OP(=O)(Cl)Cl)(Cl)Cl | Cl4O3P2
reactant | 4-nitroindole | 154 mmol, 25.0 g | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | ethyl 1-piperidineglyoxylate | 170 mmol, 29.0 g | N1(CCCCC1)C(C(=O)OCC)=O | C9H15NO3
product | Ethyl(4-nitro-1H-indol-3 yl)(oxo)acetate | C(C)OC(C(=O)C1=CNC2=CC=CC(=C12)[N+](=O)[O-])=O | C12H10N2O5
